US06087380
1-Methyl-2-[N-(4-amidino-2-chloro-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyano-2-chloro-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 82% of theory, C28H29ClN6O3 (533.1) ##EQU101##

reactant | 1-methyl-2-[N-(4-cyano-2-chloro-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=C(C=C(C=C2)C#N)Cl)C)C=C1)CCC(=O)OCC | C28H26ClN5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-Methyl-2-[N-(4-amidino-2-chloro-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 82% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=C(C=C(C=C2)C(N)=N)Cl)C)C=C1)CCC(=O)OCC | InChI=1S/C28H29ClN6O3.ClH/c1-3-38-26(36)13-14-35(20-7-5-4-6-8-20)28(37)19-10-12-24-23(16-19)33-25(34(24)2)17-32-22-11-9-18(27(30)31)15-21(22)29;/h4-12,15-16,32H,3,13-14,17H2,1-2H3,(H3,30,31);1H
